US05521173
4-[4-Propylphenyl]benzoyl Chloride
A mixture of 2.0 g of 4-(4-propylphenyl]benzoic acid and 30 ml of thionyl chloride is stirred at reflux for 45 minutes. The reaction mixture is evaporated in vacuo to a residue which is evaporated from carbon tetrachloride (2×50 ml) to give a residue which is dissolved in methylene chloride.

reactant | 4-(4-propylphenyl]benzoic acid | 2.0 g | C(CC)C1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C16H16O2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[4-Propylphenyl]benzoyl Chloride | C(CC)C1=CC=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C16H15ClO
